US04987235
Preparation of 5,6-dimethoxy-2-p-tolylsulfonvlisoindoline
100 ml of an N,N-dimethylformamide solution containing 34.2 g (0.20 mol) of p-toluenesulfonamide, was dropwise added over a period of 60 minutes under cooling with ice to a suspension comprising 19.7 g (0.41 mol) of 50% oily sodium hydride and 60 ml of N,N-dimethylformamide. The reaction solution was stirred at room temperature for 30 minutes at 60° C., and then 300 ml of an N,N-dimethylformamide solution containing 47 g (0.20 mol) of 4,5-bischloromethyl veratrol was dropwise added over a period of 90 minutes at 60° C. The reaction solution was stirred at room temperature for 3 hours, and then poured into 2000 ml of water. The precipitated crystals were collected and washed with water to obtain 60 g (yield: 90.0%) of the above identified compound.

reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | p-toluenesulfonamide | 0.20 mol, 34.2 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | sodium hydride | 0.41 mol, 19.7 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | 4,5-bischloromethyl veratrol | 0.20 mol, 47 g | ClCC=1C=C(C(=CC1CCl)OC)OC | C10H12Cl2O2
solvent | water | 2000 ml | O | H2O
product | 5,6-dimethoxy-2-p-tolylsulfonvlisoindoline | yield: 90.0% | COC=1C=C2CN(CC2=CC1OC)S(=O)(=O)C1=CC=C(C=C1)C | C17H19NO4S
